US04888044
3-Trifluoromethyl-4-phenyl-5-chloroisoxazole
To 2.28 g (10.0 mmole) of 3-trifluoromethyl-4-phenyl-5-aminoisoxazole were added 20 ml of conc. HCl and 1.09 g (11. 0 mmole) of cuprous chloride and 4.2 ml of aqueous sodium nitrate (2.76 g, 40 mmole) was added dropwise to the reaction mixture, keeping the temperature at 20°-25° C. After addition, the temperature was raised to 40°-45° C. and the mixture was stirred for 1 hour. To the mixture was added 16 ml of water, extracted with methylene chloride, dried with anhydrous sodium sulfate, evaporated under reduced pressure. The residue was purified by chromatography on silica gel to give 0.5651 g of colorless liquid. This was distilled under reduced pressure to give 0.4193 g of the titled compound as colorless liquid, yield 16.9%, b.p. 80.0°-83.0° C./0.50 mmHg.

reactant | 3-trifluoromethyl-4-phenyl-5-aminoisoxazole | 10.0 mmole, 2.28 g | FC(C1=NOC(=C1C1=CC=CC=C1)N)(F)F | C10H7F3N2O
reactant | HCl | 20 ml | Cl | ClH
reactant | sodium nitrate | 40 mmole, 4.2 ml, 2.76 g | [N+](=O)([O-])[O-].[Na+]
solvent | water | 16 ml | O | H2O
product | 3-Trifluoromethyl-4-phenyl-5-chloroisoxazole | 0.5651 g, yield 16.9% | FC(C1=NOC(=C1C1=CC=CC=C1)Cl)(F)F | C10H5ClF3NO
